US06479536B1
3-(4-Isopropylphenyl)-N-(4-methoxybenzyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-amine
By using N-[3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl]-4-methoxybenzamide, the title compound was synthesized according to Example 2b. Yield: 80%. Melting point: 95-96° C. (Hexane)

reactant | N-[3-(4-isopropylphenyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-yl]-4-methoxybenzamide | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)NC(C2=CC=C(C=C2)OC)=O)C)(C)C | C30H35NO3
solvent | Hexane | CCCCCC | C6H14
product | 3-(4-Isopropylphenyl)-N-(4-methoxybenzyl)-2,2,4,6,7-pentamethyl-2,3-dihydro-1-benzofuran-5-amine | Yield: 80% | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C(=C(C(=C2C)C)NCC2=CC=C(C=C2)OC)C)(C)C | C30H37NO2
